US04374836
A mixture of 3-methylthio-6-(3-pyridylmethyl)-1,2,4-triazin-5-one (0.23 g) and 2-guanidino-4-[(2-aminoethyl)thiomethyl]thiazole (0.23 g) was heated at 140° C. for 2 hours and then allowed to cool to room temperature. The black solid mass was triturated with a mixture of methanol (10 ml) and dimethylformamide (2 ml) and the resulting pale brown solid was filtered off. This was purified by preparative TLC using Merck Kieselgel GF 254 2 mm preparative plates in chloroform/methanol/ammonia (s.g. 0.880) 8:2:0.3 v/v/v as eluant to give 6-(3-pyridylmethyl)-3-[2-(2-guanidinothiazol-4-ylmethylthio)-ethylamino]-1,2,4-triazin-5-one (0.08 g). The n.m.r. spectrum of the product in d6 dimethyl sulphoxide using tetramethylsilane as an internal standard (δ=0) had the following resonances: 2.7 (2H, triplet); 3.4 (2H, broad multiplet); 3.6 (2H, sharp singlet); 3.8-4.1 (8H, broad multiplet--contains H2O); 6.6 (1H, sharp singlet); 6.9 (4H, broad singlet); 7.3 (1H, multiplet); 7.7 (1H, double triplet); 8.5 (2H, multiplet).

reactant | 3-methylthio-6-(3-pyridylmethyl)-1,2,4-triazin-5-one | 0.23 g | CSC1=NN=C(C(N1)=O)CC=1C=NC=CC1 | C10H10N4OS
reactant | 2-guanidino-4-[(2-aminoethyl)thiomethyl]thiazole | 0.23 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
product | 6-(3-pyridylmethyl)-3-[2-(2-guanidinothiazol-4-ylmethylthio)-ethylamino]-1,2,4-triazin-5-one | 0.08 g | N1=CC(=CC=C1)CC=1C(NC(=NN1)NCCSCC=1N=C(SC1)NC(=N)N)=O | C16H19N9OS2
